US06610694B1
Production of ethyl 2-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino]-3-oxo[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl]acetate
0.550 g of 6-[3-[4-(diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one was suspended in 3 ml of N,N-dimethylformamide; 0.058 g of 60% oily sodium hydride was added, followed by stirring at room temperature for 1 hour. Under ice cooling, 0.160 ml of ethyl bromoacetate was added, followed by stirring at room temperature for 2 hours. After ice water was added, the reaction mixture was extracted with ethyl acetate; the extract was washed with saturated saline and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (90:10:1). The desired fraction was collected and concentrated; the crystal obtained was filtered, washed with diethyl ether, and dried, to yield 0.332 g of the title compound.

reactant | 6-[3-[4-(diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.550 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C(NN2)=O)C2=CC=CC=C2 | C26H30N6O2
reactant | sodium hydride | 0.058 g | [H-].[Na+]
reactant | ethyl bromoacetate | 0.160 ml | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino]-3-oxo[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl]acetate | 0.332 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C(N(N2)CC(=O)OCC)=O)C2=CC=CC=C2 | C30H36N6O4
